US07910588B2
Add phosphorus oxychloride (20.8 mL, 34.3 g, 223.7 mmol) dropwise with stirring at 95° C. under nitrogen to 1-(3-fluoro-phenyl)-3-methyl-1H-pyrazole (4.38 g, 24.86 mmol) in dimethylformamide (19.2 mL, 18.17 g, 248.6 mmol). Heat at 95° C. for 15 hr., cool to room temperature, pour over ice and neutralize with sodium hydrogen carbonate. Extract the aqueous solution with ethyl acetate (2×150 mL), dry (magnesium sulfate), filter, and pass through an SCX-2 column. Evaporate the solvent to give 1-(3-fluoro-phenyl)-3-methyl-1H-pyrazole-4-carbaldehyde as a solid. (4.22 g, 83%). MS (m/z): 205.1 (M+1).

reactant | phosphorus oxychloride | 223.7 mmol, 20.8 mL, 34.3 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 1-(3-fluoro-phenyl)-3-methyl-1H-pyrazole | 24.86 mmol, 4.38 g | FC=1C=C(C=CC1)N1N=C(C=C1)C | C10H9FN2
reactant | dimethylformamide | 248.6 mmol, 19.2 mL, 18.17 g | CN(C=O)C | C3H7NO
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | 1-(3-fluoro-phenyl)-3-methyl-1H-pyrazole-4-carbaldehyde | FC=1C=C(C=CC1)N1N=C(C(=C1)C=O)C | C11H9FN2O
